US20010003782A1
3β-tert-Butyldimethylsilyloxy-4,4-dimethyl-5α-chola-8,14-dien-24-oic acid (5.0 g) is dissolved in 250 ml of dry dichloromethane. After cooling to −15° C., 2.14 ml of N-methylmorpholine and 1.27 ml isobutylchloroformate is added and the mixture is stirred at −15° C. for 20 minutes, whereupon 0.98 g of N,O-dimethylhydroxy/amine, HCl is added and the mixture is stirred overnight and the temperature is slowly elevated to room temperature. After aqueous work- up, 3β-tert-butyldimethylsilyloxy-4,4-dimethyl-5α-chola-8,14-dien-24-oic acid-N-methoxy-N-methyl amide (5.37 g) is obtained. Melting point: 134-135° C. 1H-NMR (CDCl3, 300 MHz): δ=5.35 (1H, s); 3.69 (3H, s); 3.2 (1H, m); 3.18 (3H, s); 0.9 (9H, s); 0.04 (6H, m).

reactant | 3β-tert-Butyldimethylsilyloxy-4,4-dimethyl-5α-chola-8,14-dien-24-oic acid | 5.0 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C([C@@H]2CCC=3C4=CC[C@H]([C@@H](CCC(=O)O)C)[C@]4(CCC3[C@]2(CC1)C)C)(C)C | C32H54O3Si
reactant | N-methylmorpholine | 2.14 ml | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 1.27 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | HCl | Cl | ClH
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 3β-tert-butyldimethylsilyloxy-4,4-dimethyl-5α-chola-8,14-dien-24-oic acid-N-methoxy-N-methyl amide | 5.37 g | CON(C(CC[C@@H](C)[C@H]1CC=C2C=3CC[C@H]4C([C@H](CC[C@]4(C)C3CC[C@]12C)O[Si](C)(C)C(C)(C)C)(C)C)=O)C | C34H59NO3Si
